US05714488
To a solution in THF/EtOH/H2O (3:2:1, 35 mL) of bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid ethyl ester (0.66 g, 1 mmol), prepared as in step 2, was added aqueous 1N NaOH (5 mL. The mixture was stirred at room temperature for 18 hours, concentrated in vacuo, diluted with water, and neutralized with 6N HCl. The precipitated solid was collected by filtration and slurried in Et2O/hexane (1:1, 50 mL), filtered, and dried in vacuo to provide bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid (435 mg): mp 201°-202° C.; 1H NMR (300 MHz, DMSO-d6)δ4.55 (s, 2H), 5.39 (s, 2H), 5.44 (s, 2H), 7.08 (d, 2H, J=9 Hz), 7.15 (d, 2H, J=9 Hz), 7.31 (d, 2H, J=9 Hz), 7.41 (d, 2H, J=9 Hz), 7.68 (m, 3H), 7.72 (d, 1H, J=9 Hz), 8.80 (m, 4H), 8.49 (t, 2H, J=9 Hz); MS (DCI/NH3) m/e 638 (M+H)+. Anal. Calcd. for C35H25 Cl2N3O5 ×H2O: C, 64.12; H, 4.12; N, 6.41. Found C, 64.44; H, 3.96; N, 6.30.

reactant | bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid ethyl ester | 1 mmol, 0.66 g | C(C)OC(C(=NO)C(C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)=O | C37H29Cl2N3O5
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF EtOH H2O | 35 mL | C1CCOC1.CCO.O
product | bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid | 435 mg | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)C(C(=O)O)=NO | C35H25Cl2N3O5
